US06599902B2
Synthesis of 3-[1-(4-{(R)-2-[(Cyclopropyl-methyl-amino)-methyl]-pyrrolidine-1-carbonyl}-3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one
A mixture of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (146 mg, 0.29 mmol), cyclopropyl-methyl-(R)-1-pyrrolidin-2-ylmethyl-amine (71 mg, 0.46 mmol), HOBt (54 mg, 0.4 mmol), EDAC (74 mg, 0.39 mmol) and TEA (0.085 mL) in DMF (3 mL) was stirred at rt for 48 hours. The reaction was concentrated, diluted with sodium bicarbonate and extracted with DCM. The combined DCM was dried, concentrated and purified on a silica gel column to give 133 mg (71%) of the titled compound.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.29 mmol, 146 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | cyclopropyl-methyl-(R)-1-pyrrolidin-2-ylmethyl-amine | 0.46 mmol, 71 mg | C1(CC1)N(C[C@@H]1NCCC1)C | C9H18N2
reactant | HOBt | 0.4 mmol, 54 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 0.39 mmol, 74 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-[1-(4-{(R)-2-[(Cyclopropyl-methyl-amino)-methyl]-pyrrolidine-1-carbonyl}-3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 133 mg, 71% | C1(CC1)N(C)C[C@@H]1N(CCC1)C(=O)C=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C32H34Cl2N4O4S
